US08563617B2
264.3 8-(3-Chlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate
8-(3-Chlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-ol (5.5 g, 16.09 mmol) was dissolved in dichloromethane (150 mL). 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (6.9 g, 19.31 mmol) was added at 0° C. followed by the addition of a solution of triethylamine (4.48 mL, 32.2 mmol) in dichloromethane (50 mL). The reaction mixture was allowed to warm to room temperature and stirring was continued over night. The reaction was poured on ice and extracted with dichloromethane. The combined extracts were washed successively with ammonium chloride solution, water and brine. The extracts were dried (Na2SO4) and the solvent was evaporated in vacuo. The crude product was purified by flash chromatography (silica gel, dichloromethane, methanol). Yield: 6.33 g (13.36 mmol, 83%).

reactant | 8-(3-Chlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-ol | 16.09 mmol, 5.5 g | ClC=1C=C(CC2C(CCC=3C=CC(=CC23)O)N2CCCC2)C=CC1 | C21H24ClNO
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 19.31 mmol, 6.9 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | triethylamine | 32.2 mmol, 4.48 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 8-(3-Chlorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=2C(C(CCC2C=C1)N1CCCC1)CC1=CC(=CC=C1)Cl)(F)F | C22H23ClF3NO3S
